US04673746
The procedure of Example 24b is repeated except that 68 g of 2,3-dichloro-4-methoxy-2'-chlorobenzophenone is combined with 58.6 g of AlCl3 in 500 ml of benzene. The resultant product is recrystallized from toluene to yield 2,3-dichloro-4-hydroxy-2'-chlorobenzophenone, mp 74°-77° C.

reactant | 2,3-dichloro-4-methoxy-2'-chlorobenzophenone | 68 g | ClC1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC(=C1Cl)OC | C14H9Cl3O2
reactant | AlCl3 | 58.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dichloro-4-hydroxy-2'-chlorobenzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC(=C1Cl)O | C13H7Cl3O2
